US06369235B1
Preparation of 1-(2,6-Difluorobenzyl)-2-(2-Fluoro-6-Methoxylphenyl)-4-Nitrobenzimidazole
To 1-(2,6-difluorobenzyl)-2-(2,6-difluorophenyl)-4-nitrobenzimidazole (2.00 g, 8 mmol)was added 2,6-difluorobenzylbromide (2.0.2 g, 9.76 mmol, 130 M%) dissolved in THF (20 mL) was added NaH (0.84 g, 21 mmol, 290 M%). After 8 h, the reaction was quenched with m ethanol and concentrated. The residue was dissolved in CH2Cl2, and washed with water and NaCl (sat. aq.). The combined washings were dried (Na2SO4), filtered, concentrated. The crude product was purified by flash chromatography eluting with ethylacetate:hexane (1:1) (2.33 g, 5.64 mmol, 78%). M.p. 189-192° C. 1H-NMR (200 MHz, CD2Cl2) δ8.11 (dd, J=8.1, 1.0 Hz, 1H, H5), 7.84 (dd, J=8.1, 1.0 Hz, 1H, H7), 7.52 (m, 1H, H4′), 7.40 (dd, J=8.1 Hz, 1H, H6), 7.26 (m, 1H, H4″), 6.89-6.74 (m, 4H, H3′,5′,35″,5″), 5.36 (d, J=3.4 Hz, 2H, CH2PhF2 (rotamers)), 3.73 (s, 3H, OCH3).

reactant | 1-(2,6-difluorobenzyl)-2-(2,6-difluorophenyl)-4-nitrobenzimidazole | 8 mmol, 2.00 g | FC1=C(CN2C(=NC3=C2C=CC=C3[N+](=O)[O-])C3=C(C=CC=C3F)F)C(=CC=C1)F | C20H11F4N3O2
reactant | 2,6-difluorobenzylbromide | 9.76 mmol, 130 M | FC1=C(CBr)C(=CC=C1)F | C7H5BrF2
reactant | NaH | 21 mmol, 290 M, 0.84 g | [H-].[Na+]
reactant | ethylacetate hexane | 5.64 mmol, 2.33 g | C(C)OC(C)=O.CCCCCC
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1-(2,6-Difluorobenzyl)-2-(2-Fluoro-6-Methoxylphenyl)-4-Nitrobenzimidazole | FC1=C(CN2C(=NC3=C2C=CC=C3[N+](=O)[O-])C3=C(C=CC=C3OC)F)C(=CC=C1)F | C21H14F3N3O3
